US08487109B2
1-Cyclohex-1-enylethynyl-4-trifluoromethoxy-benzene
This product was prepared from toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester and 1-ethynyl-cyclohexene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane; yield (110 mg, 83%); 1H NMR δ (CDCl3): 7.41 (d, J=8.38 Hz, 2H), 7.21 (d, J=8.37 Hz, 2H), 6.28 (m, 1H), 2.17 (dm, 4H), 1.63 (dm, 4H); LCMS m/z: 266.

reactant | toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester | FC(OC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C14H11F3O4S
reactant | 1-ethynyl-cyclohexene | C(#C)C1=CCCCC1 | C8H10
solvent | heptane | CCCCCCC | C7H16
product | 1-Cyclohex-1-enylethynyl-4-trifluoromethoxy-benzene | C1(=CCCCC1)C#CC1=CC=C(C=C1)OC(F)(F)F | C15H13F3O
